US08012974B2
A mixture of toluene-4-sulfonic acid 1-trifluoromethyl-cyclopropylmethyl ester (2 g, 6.796 mmol) and thiourea (0.52 g, 6.831 mmol) in 5 mL of EtOH was stirred at 90° C. for 3 hours before being cooled to RT and evaporated to give 2.5 g of 2-(1-trifluoromethyl-cyclopropylmethyl)-isothiourea p-toluenesulfonic acid salt (>95% yield).

reactant | toluene-4-sulfonic acid 1-trifluoromethyl-cyclopropylmethyl ester | 6.796 mmol, 2 g | FC(C1(CC1)COS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C12H13F3O3S
reactant | thiourea | 6.831 mmol, 0.52 g | NC(=S)N | CH4N2S
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2-(1-trifluoromethyl-cyclopropylmethyl)-isothiourea p-toluenesulfonic acid salt | 2.5 g, >95% yield | C1(=CC=C(C=C1)S(=O)(=O)O)C.FC(C1(CC1)CSC(N)=N)(F)F | InChI=1S/C7H8O3S.C6H9F3N2S/c1-6-2-4-7(5-3-6)11(8,9)10;7-6(8,9)5(1-2-5)3-12-4(10)11/h2-5H,1H3,(H,8,9,10);1-3H2,(H3,10,11)
